US05459138
EXAMPLE 23: 3-ISOPROPYL-4H-PYRIDO[4,3-e] [1,2,4]THIADIAZINE 1,1-DIOXIDE
A mixture of 1 g of 4-aminopyridine-3-sulfonamide (Preparation 2) and 10 cm3 of isobutyric anhydride is maintained at 170° C. for 72 hours. After cooling, the precipitate obtained is filtered, washed with diethyl ether and dried. The product is dissolved while hot in the minimum amount of methanol. The hot solution is decolored with absorbing charcoal, filtered and then treated with 3 volumes of water. After standing overnight at +4° C., the crystals obtained are collected on a filter, washed with water and dried.

reactant | 4-aminopyridine-3-sulfonamide | 1 g | NC1=C(C=NC=C1)S(=O)(=O)N | C5H7N3O2S
reactant | isobutyric anhydride | 10 cm3 | C(C(C)C)(=O)OC(C(C)C)=O | C8H14O3
product | 3-ISOPROPYL-4H-PYRIDO[4,3-e] [1,2,4]THIADIAZINE 1,1-DIOXIDE | C(C)(C)C1=NS(C2=C(N1)C=CN=C2)(=O)=O | C9H11N3O2S
